US07728025B2
(Step 10) Production of 1-(2-(6-hydroxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
713 mg of ammonium formate and 119 mg of 20% palladium hydroxide-carbon catalyst were added to an ethanol (20 ml) solution of 1.18 g of 1-(2-(6-benzyloxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone, and the reaction liquid was heated under reflux for 5 hours. 157 mg of ammonium formate and 56 mg of 20% palladium hydroxide-carbon catalyst were added to the reaction liquid, and the reaction liquid was further heated under reflux for 1 hour. After cooled, the catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure. The resulting residue was diluted with 1 N hydrochloric acid, extracted with ethyl acetate, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=100/0 to 99/1 to 98/2) to obtain the entitled compound as a brown amorphous substance.

reactant | ammonium formate | 713 mg | C(=O)[O-].[NH4+]
reactant | 1-(2-(6-benzyloxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | 1.18 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(N=C(N2COCC[Si](C)(C)C)C2=NC=CC=C2)C1)C1N(CCC1)C(C)=O | C31H38N4O3Si
reactant | ammonium formate | 157 mg | C(=O)[O-].[NH4+]
catalyst | palladium hydroxide carbon | 119 mg | [OH-].[Pd+2].[OH-].[C]
catalyst | palladium hydroxide carbon | 56 mg | [OH-].[Pd+2].[OH-].[C]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-(6-hydroxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | OC=1C(=CC2=C(N=C(N2COCC[Si](C)(C)C)C2=NC=CC=C2)C1)C1N(CCC1)C(C)=O | C24H32N4O3Si
